US03948931
0.245 g (0.005 mole) of sodium cyanide is added at 0°, with stirring, to the saturated solution of ammonia in 15 ml of isopropanol. After 5 minutes, a solution of 0.322 g (0.001 mole) of 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxaldehyde in ca. 10 ml of isopropanol is added together with 0.87 g of manganese dioxide. After a further 10 minutes, another addition is made of 0.87 g (total 0.02 mole) of manganese dioxide, and the mixture stirred for 4 hours at 0°. After the addition of ca. 40 ml of methylene chloride, the reaction mixture is filtered and the filtrate concentrated by evaporation. Crystallisation of the residue from methanol/ethyl acetate/petroleum ether yields 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4] benzodiazepine-1-carboxamide, M.P. 285°-289°.

reactant | sodium cyanide | 0.005 mole, 0.245 g | [C-]#N.[Na+]
reactant | ammonia | N | H3N
reactant | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxaldehyde | 0.001 mole, 0.322 g | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)C=O | C17H11ClN4O
reactant | methylene chloride | ca. 40 ml | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
solvent | isopropanol | ca. 10 ml | C(C)(C)O | C3H8O
catalyst | manganese dioxide | 0.87 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 0.02 mole, 0.87 g | [O-2].[O-2].[Mn+4]
product | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4] benzodiazepine-1-carboxamide | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)C(=O)N | C17H12ClN5O
